US08309546B2
5-{9-(Cyclopropylmethyl)-8-[4-(methylsulfonyl)piperazin-1-yl]-6-morpholin-4-yl-9H-purin-2-yl}-N-methylpyrimidin-2-amine
A dimethyl sulfoxide solution (1.0 ml) of 5-[8-chloro-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-2-yl]-N-methylpyrimidin-2-amine (140.5 mg, 0.29 mmol) and N-mesylpiperazine (190.2 mg, 1.16 mmol) was heated at 140° C. and stirred for 3 hours. N-Mesylpiperazine (190.2 mg, 1.16 mmol) was added, the resulting mixture was further stirred for 5.5 hours and left standing to cool followed by the addition of dichloromethane-methanol (10:1), and the resulting mixture was washed with saturated aqueous sodium hydrogen carbonate solution. The organic layer was dried over anhydrous sodium sulfate, the reaction mixture was filtrated, then the filtrate was concentrated under reduced pressure, and the resulting residue was purified by preparative thin layer silica gel chromatography (dichloromethane:methanol=20:1) to give the title compound (120.5 mg, 79%) as a pale yellow solid.

reactant | dimethyl sulfoxide | 1.0 ml | CS(=O)C | C2H6OS
reactant | 5-[8-chloro-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-2-yl]-N-methylpyrimidin-2-amine | 0.29 mmol, 140.5 mg | ClC=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C=NC(=NC1)NC)CC1CC1 | C18H21ClN8O
reactant | N-mesylpiperazine | 1.16 mmol, 190.2 mg | S(=O)(=O)(C)N1CCNCC1 | C5H12N2O2S
reactant | N-Mesylpiperazine | 1.16 mmol, 190.2 mg | S(=O)(=O)(C)N1CCNCC1 | C5H12N2O2S
solvent | dichloromethane methanol | ClCCl.CO
product | 5-{9-(Cyclopropylmethyl)-8-[4-(methylsulfonyl)piperazin-1-yl]-6-morpholin-4-yl-9H-purin-2-yl}-N-methylpyrimidin-2-amine | 120.5 mg, 79% | C1(CC1)CN1C2=NC(=NC(=C2N=C1N1CCN(CC1)S(=O)(=O)C)N1CCOCC1)C=1C=NC(=NC1)NC | C23H32N10O3S
